US07833939B2
To 20 ml of a 25% hydrogen bromide acetic acid solution was added 3.3 g (10.6 mmoles) of 5,5-dimethyl-3-(3-methoxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline. The mixture was stirred at 50° C. for 3 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was subjected to vacuum distillation to remove the solvent contained therein. The residue was poured into water. The resulting crystals were collected by filtration, washed with water and dried to obtain 3.1 g (yield: 96.0%) of intended 5,5-dimethyl-3-(3-hydroxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline.

reactant | hydrogen bromide acetic acid | C(C)(=O)O.Br
reactant | 5,5-dimethyl-3-(3-methoxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 10.6 mmoles, 3.3 g | CC1(CC(=NO1)SCC=1C(=NN(C1C(F)(F)F)C)OC)C | C12H16F3N3O2S
product | 5,5-dimethyl-3-(3-hydroxy-1-methyl-5-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 3.1 g, yield: 96.0% | CC1(CC(=NO1)SCC=1C(=NN(C1C(F)(F)F)C)O)C | C11H14F3N3O2S
